US07365078B2
To a mixture of 4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylideneamine hydrochloride (350 mg) and dimethylsulfate (866 mg) in tetrahydrofuran (3.5 mL) was added NaH (60% in oil, 139 mg) and heated at 65° C. for 1 hour. After addition of water, the reaction mixture was poured into 2.5 M NaOH aqueous solution, extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: chloroform/ethyl acetate=10:1) to give [4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-methyl-amine (135 mg)

reactant | 4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylideneamine hydrochloride | 350 mg | Cl.BrC1=C(C=CC(=C1)C(C)C)C=1C=C2C(N(C3=CC(=NC1N23)C)C(CCC)CCC)=N
reactant | dimethylsulfate | 866 mg | COS(=O)(=O)OC | C2H6O4S
reactant | NaH | 139 mg | [H-].[Na+]
reactant | NaOH | 2.5 M | [OH-].[Na+]
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | [4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-methyl-amine | 135 mg | BrC1=C(C=CC(=C1)C(C)C)C=1C=C2C(N(C3=CC(=NC1N23)C)C(CCC)CCC)=NC | C26H33BrN4
